US07378409B2
A sample of [(1S,2R,4R)-[4-tert-butoxycarbonylamino-2-(3-methyl-but-1-enyl)-cyclohexyl]-carbamic acid benzyl ester (0.24 g, 0.57 mmol) was dissolved in methanol (8 mL) and the resultant solution was charged with 5% Pd/C, Degussa (47 mg). The flask was evacuated and back-filled with hydrogen; this was repeated three times. The reaction was stirred under 1 atm of hydrogen for 14 h before being filtered and concentrated in vacuo to afford (1R,3R,4S)-[4-amino-3-(3-methyl-butyl)-cyclohexyl]-carbamic acid tert-butyl ester. MS found: (M+H)+=285.3.

reactant | (1S,2R,4R)-[4-tert-butoxycarbonylamino-2-(3-methyl-but-1-enyl)-cyclohexyl]-carbamic acid benzyl ester | 0.57 mmol, 0.24 g | C(C1=CC=CC=C1)OC(N[C@@H]1[C@H](C[C@@H](CC1)NC(=O)OC(C)(C)C)C=CC(C)C)=O | C24H36N2O4
solvent | methanol | 8 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | (1R,3R,4S)-[4-amino-3-(3-methyl-butyl)-cyclohexyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1C[C@H]([C@H](CC1)N)CCC(C)C)=O | C16H32N2O2
